US07163951B2
Methyl 2-(2-cyanopyrimidin-5-yl)-6-fluorobenzoate (100 mg, 0.389 mmol) was dissolved in methanol (4.0 mL) under nitrogen. Palladium on carbon (840 mg, 10% wt/wt) and concentrated HCl (32 μL) were then added prior to exchanging the nitrogen for hydrogen. After 30 minutes the reaction was judged complete (LCMS). The reaction mixture was filtered through celite and the celite was washed with additional methanol. Removal of the solvent under reduced pressure provided methyl 2-[2-(aminomethyl)pyrimidin-5-yl]-6-fluorobenzoate hydrochloride (104 mg) of 90% pure material, as determined by proton NMR and LCMS.

reactant | Methyl 2-(2-cyanopyrimidin-5-yl)-6-fluorobenzoate | 0.389 mmol, 100 mg | C(#N)C1=NC=C(C=N1)C1=C(C(=O)OC)C(=CC=C1)F | C13H8FN3O2
reactant | HCl | 32 μL | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | methanol | 4.0 mL | CO | CH4O
catalyst | Palladium on carbon | 840 mg | [Pd] | Pd
product | methyl 2-[2-(aminomethyl)pyrimidin-5-yl]-6-fluorobenzoate hydrochloride | 104 mg | Cl.NCC1=NC=C(C=N1)C1=C(C(=O)OC)C(=CC=C1)F | InChI=1S/C13H12FN3O2.ClH/c1-19-13(18)12-9(3-2-4-10(12)14)8-6-16-11(5-15)17-7-8;/h2-4,6-7H,5,15H2,1H3;1H
